US05082841
3-Butyryl-8-phthalimido-4(1H)quinolone (36 g, 0.1 mol) was heated under reflux in phosphoryl oxychloride (200 ml) for 1 hour. The solvent was evaporated and the residue dissolved in chloroform and poured into a rapidly stirred mixture of ice, water and ammonia then stirred for 10 minutes. The chloroform layer was washed with brine, dried (anhyd. MgSO4), filtered and evaporated to a brown oil. Chromatography (silica gel/5% methanol in chloroform) gave 3-butyryl-4-chloro-8-phthalimidoquinoline as a light brown oil (21.5g, 57%).

reactant | 3-Butyryl-8-phthalimido-4(1H)quinolone | 0.1 mol, 36 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O4
reactant | phosphoryl oxychloride | 200 ml | P(=O)(OCl)(Cl)Cl | Cl3O2P
product | 3-butyryl-4-chloro-8-phthalimidoquinoline | 21.5g, 57% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C21H15ClN2O3
